US08981085B2
N,N-Dimethylpiperidin-3-amine (115 mg, 0.895 mmol) was added to N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide (100 mg, 0.298 mmol) in n-BuOH. The reaction was stirred at 160° C. for 20 hours in a sealed tube. After concentration, the residue was purified by C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18 25M column, 0-60% CH3CN/water gradient; 20 CV) to yield N-(5-bromo-4-(3-(dimethylamino)piperidin-1-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide (60 mg, 45.4% yield) as a solid. The solid was dissolved in a minimal amount of methanol, and then the solution was added to 2N HCl in ether. The resulting precipitate was filtered and dried under high vacuum to yield N-(5-bromo-4-(3-(dimethylamino)piperidin-1-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide hydrochloride as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 10.91 (d, 1H), 10.63 (br s, 1H), 9.47 (d, 1H), 8.99 (dd, 1H), 8.90 (d, 1H), 8.30 (s, 1H), 7.98 (dd, 1H), 7.59 (s, 1H), 3.67-3.59 (m, 1H), 3.27-3.06 (m, 3H), 2.76-2.67 (m, 1H), 2.68 (d, 3H), 2.65 (d, 3H), 2.14-2.04 (m, 1H), 1.74-1.66 (m, 1H), 1.59-1.32 (m, 2H); LCMS (APCI+) m/z 443, 445 (M+H)+, Retention time=1.90 minutes (Method 1).

reactant | N,N-Dimethylpiperidin-3-amine | 0.895 mmol, 115 mg | CN(C1CNCCC1)C | C7H16N2
reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide | 0.298 mmol, 100 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=CC=C2)=O)F | C13H8BrFN4O
solvent | n-BuOH | CCCCO | C4H10O
product | N-(5-bromo-4-(3-(dimethylamino)piperidin-1-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide | 60 mg, 45.4% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=CC=C2)=O)N2CC(CCC2)N(C)C | C20H23BrN6O
